US06995171B2
[2-(7-Chloro-thieno[3,2-b]pyridin-2-yl) -4-methyl-thiazol-5-yl]-morpholin-4-yl-methanone (532 mg, 82%) was prepared from 2-(7-Chloro-thieno[3,2-b]pyridin-2-yl)-4-methyl-thiazole-5-carbonyl chloride and morpholine in a procedure analogous to Example 20. C16H14ClN3O2S2: APCI m/z 380.0/382.1 (pos.).

reactant | 2-(7-Chloro-thieno[3,2-b]pyridin-2-yl)-4-methyl-thiazole-5-carbonyl chloride | ClC1=C2C(=NC=C1)C=C(S2)C=2SC(=C(N2)C)C(=O)Cl | C12H6Cl2N2OS2
reactant | morpholine | N1CCOCC1 | C4H9NO
product | [2-(7-Chloro-thieno[3,2-b]pyridin-2-yl) -4-methyl-thiazol-5-yl]-morpholin-4-yl-methanone | 532 mg, 82% | ClC1=C2C(=NC=C1)C=C(S2)C=2SC(=C(N2)C)C(=O)N2CCOCC2 | C16H14ClN3O2S2
